US06743924B2
The obtained 4-(hydroxymethyl)-2-[(E)-2-[4-(trifluoromethyl)phenyl]ethenyl]-1,3-oxazole (1.00 g, 3.71 mmol) and diisopropylethylamine (0.95 mL, 5.44 mmol) were added to THF (tetrahydrofuran) (15 ml). Methanesulfonyl chloride (0.45 mL, 5.81 mmol) was added dropwise under ice-cooling. The mixture was stirred at the same temperature for 1 hour. 4-[4-(1H-1,2,3-Triazol-1-yl)butyl]phenol (900 mg, 4.14 mmol) and tetra(n-butyl)ammonium bromide (60 mg, 0.19 mmol) were added at the same temperature. A 2N aquous sodium hydroxide solution (7.5 mL, 15.0 mmol) was added dropwise at not more than 15° C. and the mixture was stirred with reflux for 1 hour. After allowing to cool to room temperature and stirring, the organic layer was concentrated under reduced pressure. Ethanol (20 ml) was added to the residue, and the mixture was stirred with reflux. Water (20 ml) was added dropwise at the same temperature. After allowing to cool to room temperature and stirring, the mixture was ice-cooled. The precipitated crystals were collected by filtration, washed with water (20 ml) and dried under reduced pressure to give 1-[4-[4-[[2-[(E)-2-[4-(trifluoromethyl)phenyl]ethenyl]-1,3-oxazol-4-yl]methoxy]phenyl]butyl]-1H-1,2,3-triazole (1.61 g, 3.44 mmol, yield 88%).

reactant | 4-(hydroxymethyl)-2-[(E)-2-[4-(trifluoromethyl)phenyl]ethenyl]-1,3-oxazole | 3.71 mmol, 1.00 g | OCC=1N=C(OC1)\C=C\C1=CC=C(C=C1)C(F)(F)F | C13H10F3NO2
reactant | diisopropylethylamine | 5.44 mmol, 0.95 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | Methanesulfonyl chloride | 5.81 mmol, 0.45 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | 4-[4-(1H-1,2,3-Triazol-1-yl)butyl]phenol | 4.14 mmol, 900 mg | N1(N=NC=C1)CCCCC1=CC=C(C=C1)O | C12H15N3O
reactant | sodium hydroxide | 15.0 mmol, 2N, 7.5 mL | [OH-].[Na+]
catalyst | tetra(n-butyl)ammonium bromide | 0.19 mmol, 60 mg | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | THF | 15 ml | O1CCCC1 | C4H8O
product | 1-[4-[4-[[2-[(E)-2-[4-(trifluoromethyl)phenyl]ethenyl]-1,3-oxazol-4-yl]methoxy]phenyl]butyl]-1H-1,2,3-triazole | 3.44 mmol, 1.61 g, yield 88% | FC(C1=CC=C(C=C1)/C=C/C=1OC=C(N1)COC1=CC=C(C=C1)CCCCN1N=NC=C1)(F)F | C25H23F3N4O2
